US06974870B2
2-Chloro-4-methoxy-nicotinonitrile (M. Mittelbach et al., Arch. Pharm. (Weinheim Ger.), 1985, GE, 318, 6, 481-486) (6.92 g) was suspended in 70 mL of 30% HBr in acetic acid in a pressure vessel and heated with stirring at 100° C. for 2 h. The reaction was cooled to room temperature and filtered, washing well with H2O, and dried in vacuo overnight at 50° C. providing 4.85 g 2-bromo-4-hydroxy-nicotinonitrile as a white solid. Proton NMR(DMSO) indicated the product was a mixture of 69% bromo compound with 31% starting chloro analog.

reactant | 2-Chloro-4-methoxy-nicotinonitrile | 6.92 g | ClC1=C(C#N)C(=CC=N1)OC | C7H5ClN2O
reactant | HBr | 70 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-bromo-4-hydroxy-nicotinonitrile | 4.85 g | BrC1=C(C#N)C(=CC=N1)O | C6H3BrN2O
